US04450149
5-Benzoxy-1-pentene.
Benzoyl chloride (0.2 mol, 23 ml) was added dropwise to a solution of 4penten-1-ol (0.2 mol, 20 ml) in pyridine and stirred overnight at room temperature. The reaction mixture was poured into 100 mlof water and the organic layer separated. The product mixture was washed, sequentially, with dilute HCl, saturated aqueous Na2CO3, and water. The organic layer was dried over anhydrous Na2CO3 and the product distilled: bp 90°-98° (1.0 mmHg); yield 26.9g, (71%); NMR (neat) δ 1.5 (broad m, 4, alkyl), 3.8 (t, 2, --OCH2 --), 4.6 (m, 2, =CH2), 5.2 (m, 1, =CH--), 7.3 (m, 5, ArH).

reactant | Benzoyl chloride | 0.2 mol, 23 ml | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
reactant | 4penten-1-ol | 0.2 mol, 20 ml | C(CCC=C)O | C5H10O
reactant | water | O | H2O
solvent | pyridine | N1=CC=CC=C1 | C5H5N
product | 5-Benzoxy-1-pentene | C(C1=CC=CC=C1)OCCCC=C | C12H16O
